US07365085B2
a) Propane-1-sulfonic acid (5-methoxy-2-methyl-phenyl)-amide
To the solution of 5-methoxy-2-methyl-phenylamine (0.118 g, 0.86 mmol) and pyridine (0.1 mL) and CH2Cl2 (3 mL) at 0° C. was added dropwise propane-1-sulfonyl choride (0.135 g, 0.95 mmol) and the reaction mixture was stirred at RT overnight. The mixture was then concentrated and purified via silica gel chromatography to give the product as an oil (0.145 g, 69%): MS(ES) m/e 244.2 [M+H]+.

reactant | 5-methoxy-2-methyl-phenylamine | 0.86 mmol, 0.118 g | COC=1C=CC(=C(C1)N)C | C8H11NO
reactant | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
reactant | propane-1-sulfonyl choride | 0.95 mmol, 0.135 g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | Propane-1-sulfonic acid (5-methoxy-2-methyl-phenyl)-amide | 0.145 g, 69% | COC=1C=CC(=C(C1)NS(=O)(=O)CCC)C | C11H17NO3S
